US07291631B2
MnO2 (2.01 g, 23.2 mmol) was added to a flask containing a solution of (3-isobutyl-pyridin-2-yl)-methanol (383 mg, 2.32 mmol) in CH2Cl2 (15 mL). The black mixture was stirred at room temperature for 22 hours and then filtered through celite. The filtrate was concentrated in vacuo to give a yellow oil. Purification via column chromatography on silica gel (CH2Cl2:MeOH, 97.5:2.5, v/v) afforded 3-isobutyl-pyridine-2-carbaldehyde as an orange oil (344 mg, 91%). 1H NMR (CDCl3) δ 0.93 (d, 6H, J=6.0 Hz), 1.87 (m, 1H), 2.94 (d, 2H, J=6.0 Hz), 7.39 (dd, 1H, J=9.0, 3.0 Hz), 7.60 (d, 1H, J=9.0), 8.67 (d, 1H, J=6.0 Hz), 10.18 (s, 1H).

reactant | (3-isobutyl-pyridin-2-yl)-methanol | 2.32 mmol, 383 mg | C(C(C)C)C=1C(=NC=CC1)CO | C10H15NO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 23.2 mmol, 2.01 g | O=[Mn]=O
product | 3-isobutyl-pyridine-2-carbaldehyde | 344 mg, 91% | C(C(C)C)C=1C(=NC=CC1)C=O | C10H13NO
